US04386099
(b) N-Phenyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine
Five grams of 4-(4-aminophenyl)-1-H-imidazole were added to a solution of 4.6 gm of ethyl N-phenyl-formimidate [Org. Synth., 35, 65 (1965)] in 25 ml of acetone. After stirring for four hours at room temperature, the solid that separated was filtered and dried under vacuum. The product was treated with acetone and acidified with glacial acetic acid. N-Phenyl-N'-[4-(imidazol-4-yl]-formamidine crystallized as acetate salt which was filtered to give 4.6 gm of the desired product.

reactant | 4-(4-aminophenyl)-1-H-imidazole | Five grams | NC1=CC=C(C=C1)C=1N=CNC1 | C9H9N3
reactant | ethyl N-phenyl-formimidate | 4.6 gm | C1(=CC=CC=C1)N=COCC | C9H11NO
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | N-Phenyl-N'-[4-(imidazol-4-yl)-phenyl]-formamidine | 4.6 gm | C1(=CC=CC=C1)NC=NC1=CC=C(C=C1)C=1N=CNC1 | C16H14N4
